US09387202B2
A mixture of ethyl 2-cyano-3-ethoxybut-2-enoate (194 g theory, 1.06 mol) and N,N-dimethylformamide dimethyl acetal (160 g, 1.325 mol) was heated at 70° C. for 2 h. The mixture was concentrated under high vacuum to provide crude ethyl 2-cyano-5-(dimethylamino)-3-ethoxypenta-2,4-dienoate. The residue was used directly without further purification.

reactant | ethyl 2-cyano-3-ethoxybut-2-enoate | 1.06 mol, 194 g | C(#N)C(C(=O)OCC)=C(C)OCC | C9H13NO3
reactant | N,N-dimethylformamide dimethyl acetal | 1.325 mol, 160 g | COC(N(C)C)OC | C5H13NO2
product | ethyl 2-cyano-5-(dimethylamino)-3-ethoxypenta-2,4-dienoate | C(#N)C(C(=O)OCC)=C(C=CN(C)C)OCC | C12H18N2O3
